US07772226B2
(c) t-Butyl 4-(6-methyl-7-oxo-6,7-dihydro-1H-imidazo[4,5-d]pyridazin-2-yl)piperazine-1-carboxylate
69.7 g of 2-chloro-5-methyl-1-trityl-1,5-dihydroimidazo[4,5-d]pyridazin-4-one was combined with 153.4 g of t-butyl piperazine-1-carboxylate, and the mixture was stirred and heated to 100° C. under nitrogen atmosphere. When the reaction mixture became easily stirrable, the temperature was raised to 150° C. The mixture was kept at this temperature for one hour. The reaction solution allowed to cool and then suspended in 250 ml of t-butyl methyl ether. The suspended material was collected by filtration. The solid was washed twice with 200 ml of t-butyl methyl ether and three times with 200 ml of water. The solid was again washed twice with 200 ml of t-butyl methyl ether, and dried to give 50.3 g of the title compound.

reactant | 2-chloro-5-methyl-1-trityl-1,5-dihydroimidazo[4,5-d]pyridazin-4-one | 69.7 g | ClC1=NC2=C(C=NN(C2=O)C)N1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H19ClN4O
reactant | t-butyl piperazine-1-carboxylate | 153.4 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | t-butyl methyl ether | 250 ml | COC(C)(C)C | C5H12O
product | t-Butyl 4-(6-methyl-7-oxo-6,7-dihydro-1H-imidazo[4,5-d]pyridazin-2-yl)piperazine-1-carboxylate | 50.3 g | CN1N=CC2=C(C1=O)NC(=N2)N2CCN(CC2)C(=O)OC(C)(C)C | C15H22N6O3
